2123-11-18 08:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2123-11-17**] 08:11 PM
   O/N pt intubated, sedated on propofol. Prop stopped and pt able to move
   all 4 extremities spontaneously; difficult to assess response to voice
   commands as she is deaf and speaks Russian only.
   - This AM, PS 10/5
 changed to 15/5 given RR 30
s, likely inc WOB d/t
   PNA/ effusions on imaging
   - some blood in oral secretions suctioned last night might be [**2-22**]
   trauma from intubation (was re-intubated in [**Hospital Unit Name 1**] as ED intubation was
   in R mainstem bronchus)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2123-11-17**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-11-18**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 70 (70 - 71) bpm
   BP: 132/70(85) {132/60(82) - 171/104(121)} mmHg
   RR: 20 (12 - 20) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Height: 64 Inch
             Total In:
                                                                    800 mL
                                                                  1,042 mL
   PO:
             TF:
   IVF:
                                                                    410 mL
                                                                    952 mL
   Blood products:
   Total out:
                                                                  1,720 mL
                                                                    580 mL
   Urine:
                                                                    920 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -920 mL
                                                                    462 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 354 (354 - 354) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 102
   PIP: 15 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: 7.45/40/156/29/4
   Ve: 6.1 L/min
   PaO2 / FiO2: 390
   Physical Examination
   General Appearance: sedated, intubated, not responsive to voice
   Eyes / Conjunctiva: pupils constricted 1.5mm b/l, but reactive to light
   and equal b/l
   Neck: unable to assess JVP due to C-collar
   Cardiovascular: RRR nl S1, S2 no murmurs appreciated
   Respiratory / Chest: rhonchorus breath sounds more on inspiration
   (might be [**2-22**] vent)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: no LE edema, 2+ DP and PT pulses; very cold extremities,
   poor cap refill, no cyanosis
   Skin: no rashes, or jaundice, has ecchymoses on L-shoulder, ecchymoses
   on sternum and L-chest
   Neurologic: sedated, intubated. [**1-22**]+ patellar and ankle reflexes B/L;
   downgoing toes B/L
   Labs / Radiology
   164 K/uL
   13.0 g/dL
   100 mg/dL
   0.7 mg/dL
   29 mEq/L
   2.7 mEq/L
   12 mg/dL
   92 mEq/L
   133 mEq/L
   38.2 %
   13.7 K/uL
        [image002.jpg]
                            [**2123-11-17**]  07:51 PM
                            [**2123-11-18**]  12:44 AM
                            [**2123-11-18**]  12:59 AM
   WBC
   13.7
   Hct
   38.2
   Plt
   164
   Cr
   0.7
   TropT
   0.18
   0.17
   TCO2
   29
   Glucose
   100
   Other labs: PT / PTT / INR:22.8/27.0/2.2, CK / CKMB /
   Troponin-T:653/13/0.17, ALT / AST:19/49, Alk Phos / T Bili:71/1.0,
   Ca++:9.4 mg/dL, Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   82 year old Russian lady w/ HTN, a-fib s/p AVN & PPM, HL, and Meniere's
   disease who was admitted for suspected overdose on temazepam and/or
   oxycodone, currently intubated due to inability to protect airway.
   1. Unresponsiveness- Potentially due to overdose as urine positive for
   benzodiazepenes and pinpoint pupils argue for some combination of
   temazepam and/or oxycodone use. It is unknown whether this was
   intentional or not as patient did not directly tell her husband,
   although this is what he had feared. Gastric lavage/activated charcoal
   not attempted in ED (perhaps due to timing?) no flumazenil given; high
   risk of seizure Other confounding factors are her known Meniere's
   disease, orthostatic hypotension from inappropriate use of
   anti-hypertensives (bp at time of fall unknown, and bp elevated in ED)
   or from poor PO intake. She has no known seizure disorder and did not
   display seizure-like activity as per report. Head CT was negative for
   intracranial hemorrhage or acute stroke. (although her age,
   hyperlipidemia and hypertension are risk factors and her
   anticoagulation would put her at risk for hemorrhagic stroke).  Heart
   block unlikely, as pt paced. Infectious causes less likely given normal
   pan-scan-> might be focus of inflammation in transverse, asc, desc
   colon.
   - intubate [**2-22**] inability to protect airway; d/c propofol and re-assess
   MS, if ok-> attempt to extubate and obtain further history
   - supportive care on vent o/n, wean fio2 (currently at 100%)
   - check orthostatics once extubated
   - hold antihypertensives for now (hctz, valsartan, spironolactone)
   - hold benzo and narcotics
   - f/u Ucx
   - f/u toxicology c/s
   - psych c/s t  re: possible suicidal ideation
   -1:1 sitter/ suicide precautions
   2. Increased work of  breathing- PS 10/5-> increased to 15/5 and
   infiltrates on lung films could be [**2-22**] infectious process vs.
   aspiration PNA  vs. atelectasis vs. hemothorax from traumatic
   intubation.
   - will monitor respiratory status and hold antibiotic treatment for now
   -  check [**Hospital1 7**] HCT w/ concern for hemothorax
   - repeat CXR
   .
   3. Hyponatremia- baseline hyponatremia from hydrochlorothiazide use, as
   documented in previous geriatric notes. Could also be [**2-22**] poor PO
   intake.
   - run IVF NS 1000ml maintenance at 75cc/hr.
   - hold HCTZ
   - check electrolytes, consider urine lytes
   (pt has diastolic dysfunction w/ LVEF 65%)
   4. Elevated [**Name (NI) 11075**] husband denies alcohol use, although other
   toxins/medications can cause AST > ALT. Most likely reason is muscular
   injury/trauma especially in light of elevated CPK and ecchymoses on L
   shoulder and chest
    In light of other LFTs, being normal, will continue to monitor.
   .
   5. Afib- Patient is rate-controlled on carvedilol and anticoagulated
   with warfarin.
   - ct ICU monitoring
   - continue carvedilol 25mg daily
   - continue coumadin 3mg daily
   - follow INR
   .
   6. Elevated troponin- troponins trending upwards- no hx kidney disease
   this is likely [**2-22**] demand ischemia due to hypotension at time of fall,
   although Bp during that time unknown. MB not high, CPK likely elevated
   [**2-22**] muscle injury
   -check EKG in AM
   FEN/ GI: NPO, IVF NS 1000ml @ 75 cc/hr
   PPX: pnuemoboots, coumadin
   .
   PPX:
   -DVT ppx with heparin SC, coumadin
   -Bowel regimen
   -Pain management with
   .
   ACCESS: PIV's
   .
   CODE STATUS: FULL
   .
   EMERGENCY CONTACT:  [**Name (NI) 186**] [**Name (NI) **] [**Telephone/Fax (1) 11076**]
   .
   DISPOSITION:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2123-11-17**] 04:32 PM
   16 Gauge - [**2123-11-17**] 04:32 PM
   Prophylaxis:
   DVT:  coumadin
   Stress ulcer:  lansoprazole 30mg [**Hospital1 7**]
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2123-11-18 09:55:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Required increased ventilator support overnight.
   Marked decreased hearing acuity.
   History obtained from Medical records
   Patient unable to provide history: Language barrier, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2123-11-17**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2123-11-18**] 09:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (99
   HR: 70 (70 - 71) bpm
   BP: 123/70(81) {116/57(71) - 171/104(121)} mmHg
   RR: 16 (12 - 20) insp/min
   SpO2: 94%
   Heart rhythm: V Paced
   Height: 64 Inch
             Total In:
                                                                    810 mL
                                                                  1,548 mL
   PO:
             TF:
   IVF:
                                                                    420 mL
                                                                  1,368 mL
   Blood products:
   Total out:
                                                                  1,720 mL
                                                                    660 mL
   Urine:
                                                                    920 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -910 mL
                                                                    888 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 472 (354 - 472) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 102
   PIP: 20 cmH2O
   Plateau: 14 cmH2O
   SpO2: 94%
   ABG: 7.45/40/156/29/4
   Ve: 6.1 L/min
   PaO2 / FiO2: 390
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   13.0 g/dL
   164 K/uL
   100 mg/dL
   0.7 mg/dL
   29 mEq/L
   2.7 mEq/L
   12 mg/dL
   92 mEq/L
   133 mEq/L
   38.2 %
   13.7 K/uL
        [image002.jpg]
                            [**2123-11-17**]  07:51 PM
                            [**2123-11-18**]  12:44 AM
                            [**2123-11-18**]  12:59 AM
   WBC
   13.7
   Hct
   38.2
   Plt
   164
   Cr
   0.7
   TropT
   0.18
   0.17
   TCO2
   29
   Glucose
   100
   Other labs: PT / PTT / INR:22.8/27.0/2.2, CK / CKMB /
   Troponin-T:653/13/0.17, ALT / AST:19/49, Alk Phos / T Bili:71/1.0,
   Ca++:9.4 mg/dL, Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR ([**2123-11-18**]) bibasilar densities, loss of diaphragmatic
   contours, consistent with expanding effusions or evolving pneumonia.
   Assessment and Plan
   82 yof s/p fall incontext of medication overdose (benzidiazepines,
   ?narcotics).
   RESPIRATORY FAILURE
 intubated primarily for airway proterction in
   context of altered mental status.  Evidence for expanding pleural
   effusions (possible blood) and infiltrate (possible aspiration
   pneuomonia).   Would assess for pleural effusion with ultrasound, and
   consider diagnostic thoracentesis.  Would maintain low threshold to
   initiate empirircal antimicrobials.  Monitor SaO2, CXR, hope to work
   towards extubation, although may be limited to evolving pneumonia or
   bleeding.
   PLEURAL EFFUSIONS -- possible expanding fluid, but need to consider
   hemothorax.  Monitor Hct.
   MENTAL STATUS
 altered attributed to medication ingestion
   (sedatives).  Would favor discontinuation of sedation to assess
   neurological status.  D/C propofol and asses neurological state (will
   require Russian interpreter, and possible hearing aids).
   OVERDOSE
 unclear as to specific ingestion, but candidates include
   benzodiazepine and narcotics.  Toxicology consultation performed.
   Absence of Concern for intentional overdose / suicide attempt
 will
   require 24-hr sitter and Psychiatry consultation once awake and
   extubated.
   ELEVATED CPK
 likely due to trauma from fall.  Need to monitor serial
   CPK.  If continues to increase, at risk for rhabdomyalisis.
   s/p FALL
 Neck brace.  Need to await final interpretation prior to
   discontinuing neck brace.
   A-FIB
 chronic, now paced.  Continue coumadin if no further
   procedures.
   FLUIDS
 hypovolemia.  Plan replete, monitor I/O.
   HYPONATREMIA
 Possible related to diuretic use.  Doubt responsible for
   altered mental status, but may be contributing (mildly).  IV NS,
   monitor Na.
   CHRONIC PAIN
 chronic narcotics and benzodiazepine use.  Monitor for
   withdrawal symptoms.  Need to establish optimal medical regimen for
   pain and anxiety control.  Will consider dilaudid (on background of
   Fentanyl patch) perhaps in combination with NSAID, in addition to
   benzodiazepine.  Consider Pain Service consult.
   NUTRITIONAL SUPPORT
 NPO pending evaluation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2123-11-17**] 04:32 PM
   16 Gauge - [**2123-11-17**] 04:32 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2123-11-19 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Extubated
   - Fentanyl patch at 12 mcg/hr and sc dilaudid 1 mg [**Hospital1 7**] ordered for pain
   control
   - unable to clear C-collar, repeat CT ordered per Spine recs
   - 24 hour sitter ordered
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2123-11-18**] 03:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-11-19**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98
   HR: 70 (70 - 83) bpm
   BP: 125/69(81) {95/47(59) - 129/83(87)} mmHg
   RR: 14 (10 - 26) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Height: 64 Inch
             Total In:
                                                                  3,882 mL
                                                                    578 mL
   PO:
             TF:
   IVF:
                                                                  3,642 mL
                                                                    578 mL
   Blood products:
   Total out:
                                                                    955 mL
                                                                    140 mL
   Urine:
                                                                    955 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,927 mL
                                                                    438 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 310 (310 - 472) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: 7.41/37/107/26/0
   Ve: 6.6 L/min
   PaO2 / FiO2: 268
   Physical Examination
   General Appearance: sedated, intubated, not responsive to voice
   Eyes / Conjunctiva: pupils constricted 1.5mm b/l, but reactive to light
   and equal b/l
   Neck: unable to assess JVP due to C-collar
   Cardiovascular: RRR nl S1, S2 no murmurs appreciated
   Respiratory / Chest: rhonchorus breath sounds more on inspiration
   (might be [**2-22**] vent)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: no LE edema, 2+ DP and PT pulses; very cold extremities,
   poor cap refill, no cyanosis
   Skin: no rashes, or jaundice, has ecchymoses on L-shoulder, ecchymoses
   on sternum and L-chest
   Neurologic: sedated, intubated. [**1-22**]+ patellar and ankle reflexes B/L;
   downgoing toes B/L
   Labs / Radiology
   132 K/uL
   11.1 g/dL
   132 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.0 mEq/L
   16 mg/dL
   104 mEq/L
   137 mEq/L
   32.8 %
   10.7 K/uL
        [image002.jpg]
                            [**2123-11-17**]  07:51 PM
                            [**2123-11-18**]  12:44 AM
                            [**2123-11-18**]  12:59 AM
                            [**2123-11-18**]  12:31 PM
                            [**2123-11-18**]  02:31 PM
                            [**2123-11-19**]  03:20 AM
                            [**2123-11-19**]  04:37 AM
   WBC
   13.7
   10.8
   10.7
   Hct
   38.2
   36.3
   33.3
   32.8
   Plt
   164
   137
   132
   Cr
   0.7
   0.6
   0.6
   TropT
   0.18
   0.17
   TCO2
   29
   24
   Glucose
   100
   115
   122
   132
   Other labs: PT / PTT / INR:24.0/35.7/2.3, CK / CKMB /
   Troponin-T:653/13/0.17, ALT / AST:16/34, Alk Phos / T Bili:53/0.8,
   Lactic Acid:1.1 mmol/L, LDH:214 IU/L, Ca++:9.1 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
   82 year old Russian lady w/ HTN, a-fib s/p AVN & PPM, HL, and Meniere's
   disease who was admitted for suspected overdose on temazepam and/or
   oxycodone, currently intubated due to inability to protect airway.
   1. Unresponsiveness- Potentially due to overdose as urine positive for
   benzodiazepenes and pinpoint pupils argue for some combination of
   temazepam and/or oxycodone use. It is unknown whether this was
   intentional or not as patient did not directly tell her husband,
   although this is what he had feared. Gastric lavage/activated charcoal
   not attempted in ED (perhaps due to timing?) no flumazenil given; high
   risk of seizure Other confounding factors are her known Meniere's
   disease, orthostatic hypotension from inappropriate use of
   anti-hypertensives (bp at time of fall unknown, and bp elevated in ED)
   or from poor PO intake. She has no known seizure disorder and did not
   display seizure-like activity as per report. Head CT was negative for
   intracranial hemorrhage or acute stroke. (although her age,
   hyperlipidemia and hypertension are risk factors and her
   anticoagulation would put her at risk for hemorrhagic stroke).  Heart
   block unlikely, as pt paced. Infectious causes less likely given normal
   pan-scan-> might be focus of inflammation in transverse, asc, desc
   colon.
   - intubate [**2-22**] inability to protect airway; d/c propofol and re-assess
   MS, if ok-> attempt to extubate and obtain further history
   - supportive care on vent o/n, wean fio2 (currently at 100%)
   - check orthostatics once extubated
   - hold antihypertensives for now (hctz, valsartan, spironolactone)
   - hold benzo and narcotics
   - f/u Ucx
   - f/u toxicology c/s
   - psych c/s t  re: possible suicidal ideation
   -1:1 sitter/ suicide precautions
   2. Increased work of  breathing- PS 10/5-> increased to 15/5 and
   infiltrates on lung films could be [**2-22**] infectious process vs.
   aspiration PNA  vs. atelectasis vs. hemothorax from traumatic
   intubation.
   - will monitor respiratory status and hold antibiotic treatment for now
   -  check [**Hospital1 7**] HCT w/ concern for hemothorax
   - repeat CXR
   .
   3. Hyponatremia- baseline hyponatremia from hydrochlorothiazide use, as
   documented in previous geriatric notes. Could also be [**2-22**] poor PO
   intake.
   - run IVF NS 1000ml maintenance at 75cc/hr.
   - hold HCTZ
   - check electrolytes, consider urine lytes
   (pt has diastolic dysfunction w/ LVEF 65%)
   4. Elevated [**Name (NI) 11075**] husband denies alcohol use, although other
   toxins/medications can cause AST > ALT. Most likely reason is muscular
   injury/trauma especially in light of elevated CPK and ecchymoses on L
   shoulder and chest
    In light of other LFTs, being normal, will continue to monitor.
   .
   5. Afib- Patient is rate-controlled on carvedilol and anticoagulated
   with warfarin.
   - ct ICU monitoring
   - continue carvedilol 25mg daily
   - continue coumadin 3mg daily
   - follow INR
   .
   6. Elevated troponin- troponins trending upwards- no hx kidney disease
   this is likely [**2-22**] demand ischemia due to hypotension at time of fall,
   although Bp during that time unknown. MB not high, CPK likely elevated
   [**2-22**] muscle injury
   -check EKG in AM
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2123-11-17**] 04:32 PM
   22 Gauge - [**2123-11-19**] 05:00 AM
   Prophylaxis:
   DVT: warfarin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:  Husband [**Name (NI) **] [**Telephone/Fax (1) 11076**]
   [**Name2 (NI) 36**] status: Full code
   Disposition:

2123-11-19 09:01:00 Physician Attending Progress Note
Chief Complaint: Altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated yesterday afternoon, remains extubated.
   Much more awake, alert, interactive, speaking Russian clearly.
   Through interpreter, indicates pain better controlled, but "thirsty"
   Tolerating sips of water.
   24-hr sitter in place.
   Psychiatry evaluation in progress.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Language barrier, Russian
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2123-11-18**] 03:50 PM
   Lansoprazole (Prevacid) - [**2123-11-19**] 08:28 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**3-24**] Mild
   Pain location: Back, chronic
   Flowsheet Data as of  [**2123-11-19**] 09:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.3
C (97.4
   HR: 70 (70 - 83) bpm
   BP: 138/75(91) {95/47(59) - 138/83(91)} mmHg
   RR: 16 (10 - 26) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Height: 64 Inch
             Total In:
                                                                  3,882 mL
                                                                    659 mL
   PO:
             TF:
   IVF:
                                                                  3,642 mL
                                                                    659 mL
   Blood products:
   Total out:
                                                                    955 mL
                                                                    177 mL
   Urine:
                                                                    955 mL
                                                                    177 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,927 mL
                                                                    482 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 310 (310 - 310) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: 7.41/37/107/26/0
   Ve: 6.6 L/min
   PaO2 / FiO2: 268
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, date = "[**2124-11-20**]", Movement: Not
   assessed, No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   11.1 g/dL
   132 K/uL
   132 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.0 mEq/L
   16 mg/dL
   104 mEq/L
   137 mEq/L
   32.8 %
   10.7 K/uL
        [image002.jpg]
                            [**2123-11-17**]  07:51 PM
                            [**2123-11-18**]  12:44 AM
                            [**2123-11-18**]  12:59 AM
                            [**2123-11-18**]  12:31 PM
                            [**2123-11-18**]  02:31 PM
                            [**2123-11-19**]  03:20 AM
                            [**2123-11-19**]  04:37 AM
   WBC
   13.7
   10.8
   10.7
   Hct
   38.2
   36.3
   33.3
   32.8
   Plt
   164
   137
   132
   Cr
   0.7
   0.6
   0.6
   TropT
   0.18
   0.17
   TCO2
   29
   24
   Glucose
   100
   115
   122
   132
   Other labs: PT / PTT / INR:24.0/35.7/2.3, CK / CKMB /
   Troponin-T:653/13/0.17, ALT / AST:16/34, Alk Phos / T Bili:53/0.8,
   Lactic Acid:1.1 mmol/L, LDH:214 IU/L, Ca++:9.1 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
   82 yof s/p fall incontext of medication overdose (benzidiazepines,
   ?narcotics).
   RESPIRATORY FAILURE
 stable following extubation.  (intubated
   primarily for airway protection in context of altered mental status).
   Evidence for expanding pleural effusions (possible blood) and
   infiltrate (possible aspiration pneuomonia).   Would assess for pleural
   effusion with ultrasound, and consider diagnostic thoracentesis.  Would
   maintain low threshold to initiate empirircal antimicrobials.  Monitor
   SaO2, CXR, hope to work towards extubation, although may be limited to
   evolving pneumonia or bleeding.
   PLEURAL EFFUSIONS -- possible expanding fluid, but need to consider
   hemothorax.  Monitor Hct.
   MENTAL STATUS
 altered attributed to medication ingestion
   (sedatives).  Would favor discontinuation of sedation to assess
   neurological status.  D/C propofol and asses neurological state (will
   require Russian interpreter, and possible hearing aids).
   OVERDOSE
 unclear as to specific ingestion, but candidates include
   benzodiazepine and narcotics.  Toxicology consultation performed.
   Absence of Concern for intentional overdose / suicide attempt
 will
   require 24-hr sitter and Psychiatry consultation once awake and
   extubated.
   ELEVATED CPK
 likely due to trauma from fall.  Need to monitor serial
   CPK.  If continues to increase, at risk for rhabdomyalisis.
   s/p FALL
 Neck brace.  Need to await final interpretation prior to
   discontinuing neck brace.
   A-FIB
 chronic, now paced.  Continue coumadin if no further
   procedures.
   FLUIDS
 hypovolemia.  Plan replete, monitor I/O.
   HYPONATREMIA
 Possible related to diuretic use.  Doubt responsible for
   altered mental status, but may be contributing (mildly).  IV NS,
   monitor Na.
   CHRONIC PAIN
 chronic narcotics and benzodiazepine use.  Monitor for
   withdrawal symptoms.  Need to establish optimal medical regimen for
   pain and anxiety control.  Will consider dilaudid (on background of
   Fentanyl patch) perhaps in combination with NSAID, in addition to
   benzodiazepine.  Consider Pain Service consult.
   NUTRITIONAL SUPPORT
 NPO pending evaluation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2123-11-17**] 04:32 PM
   22 Gauge - [**2123-11-19**] 05:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes